US06300351B1
N-[2-(3-methoxyphenethyl)]-N′-[2-(5-bromopyridyl)]-thiourea (II-4) yield: 68%;
N-[2-(3-fluorophenethyl)]-N′-[2-(5-bromopyridyl)]-thiourea (II-5) yield: 73%; mp 171-172° C.; UV (MeOH) λmax: 202, 208, 258, 275 and 306 nm; IR(KBr) ν 3213, 3155, 3084, 3028, 2866, 1595, 1533, 1477, 1336, 1308, 1229, 1211, 1173, 1136, 1092, 1026, 935, 870, 827, 791, 740 cm−1; 1H NMR (CDCl3)δ 811.3 3 (br s, 1H), 9.46 (br s, 1H), 8.05-8.04 (d, 1H), 7.73-7.69 (dd, 1H), 7.31-7.26 (m, 1H), 7.08-6.97 (m, 3H), 6.87-6.83 (d, 1H), 4.06-3.99 (q, 2H), 3.05-3.00 (t, 2H); 13C NMR (CDCl3) δ 179.1, 163.1, 151.7, 146.2, 141.2, 130.1, 129.9, 124.5, 115.9, 115.6, 113.7, 113.5, 113.4, 112.8, 46.7 and 34.6; 19F NMR(CDCl3) δ −37.30 & −37.33 (d); Maldi Tof found: 354.0 (M+), calculated: 354.0; Anal. (C14H13BrFN3S) C, H, N, S.

reactant | N-[2-(3-fluorophenethyl)]-N′-[2-(5-bromopyridyl)]-thiourea | C1=CC(=CC(=C1)F)CCNC(=S)NC2=NC=C(C=C2)Br | C14H13BrFN3S
reactant | MeOH | CO | CH4O
product | N-[2-(3-methoxyphenethyl)]-N′-[2-(5-bromopyridyl)]-thiourea | COC1=CC=CC(=C1)CCNC(=S)NC2=NC=C(C=C2)Br | C15H16BrN3OS
